US05712281
SYNTHESIS OF 2,4-DIAMINO-6-(1,1-DIMETHYLETHYL)-5,6,7,8-TETRAHYDROQUINAZOLINE (COMPOUND 4)
A reaction vessel equipped with a Dean Stark trap was charged with 11.8 grams (0.075 mole) of 4-(1,1-dimethylethyl)cyclohexanone and 4.2 grams (0.050 mole) of cyanoguanidine in 20 mL of 2-(2-ethoxyethoxy)ethanol. The mixture was heated incrementally at 80° C., 100° C., 140° C. and 160° C., the latter where it was stirred for about 18 hours. The reaction mixture was then cooled to ambient temperature, where it solidified. The reaction mixture was triturated with 30 mL of diethyl ether, and the resultant solid was collected by filtration. The solid was washed several times with diethyl ether, yielding, when dried, 4.5 grams of 2,4-diamino-6-(1,1-dimethylethyl)-5,6,7,8-tetrahydroquinazoline, mp>250° C. The NMR spectrum was consistent with the proposed structure.

reactant | 4-(1,1-dimethylethyl)cyclohexanone | 0.075 mole, 11.8 grams | CC(C)(C)C1CCC(CC1)=O | C10H18O
reactant | cyanoguanidine | 0.050 mole, 4.2 grams | C(#N)NC(=N)N | C2H4N4
solvent | 2-(2-ethoxyethoxy)ethanol | 20 mL | C(C)OCCOCCO | C6H14O3
product | 2,4-DIAMINO-6-(1,1-DIMETHYLETHYL)-5,6,7,8-TETRAHYDROQUINAZOLINE | NC1=NC=2CCC(CC2C(=N1)N)C(C)(C)C | C12H20N4
